US07723369B2
2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-1H-imidazole (3.8 g, 10 mmol) was treated as described in general procedure G using 4-tert-butylphenylboronic acid (3.6 g, 20 mmol) to give 2-(4′-tert-butyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-1H-imidazole, which was treated as described in general procedure R using 1,4-diiodobenzene (13.2 g, 40 mmol) to give 2-(4′-tert-butyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-1-(4-iodo-phenyl)-1H-imidazole.

reactant | 2-(4-Bromo-benzyl)-4-(2,4-dichloro-phenyl)-1H-imidazole | 10 mmol, 3.8 g | BrC1=CC=C(CC=2NC=C(N2)C2=C(C=C(C=C2)Cl)Cl)C=C1 | C16H11BrCl2N2
reactant | 4-tert-butylphenylboronic acid | 20 mmol, 3.6 g | C(C)(C)(C)C1=CC=C(C=C1)B(O)O | C10H15BO2
product | 2-(4′-tert-butyl-biphenyl-4-ylmethyl)-4-(2,4-dichloro-phenyl)-1H-imidazole | C(C)(C)(C)C1=CC=C(C=C1)C1=CC=C(C=C1)CC=1NC=C(N1)C1=C(C=C(C=C1)Cl)Cl | C26H24Cl2N2
